US05519034
7-Benzyloxy-6-methoxy-2-methyl-1-[1-(2-methylthiophenyl) cyclobutyl]-1,2,3,4-tetrahydroisoquinoline (1.7 g) was heated under reflux for 2 hours with 48% aqueous hydrobromic acid (15 ml) and glacial acetic acid (15 ml). The solvents were removed by evaporation in vacuo and the residue dried by azeotropic distillation with propan-2-ol. The residue was then dissolved in propan-2-ol, decolourised with charcoal and the solvent evaporated to yield 6,7-dihydroxy-2-methyl-1-[1-(2-methylthiophenyl )cyclobutyl]-1,2,3,4-tetrahydroisoquinoline hydrobromide (1.1 g).

reactant | 7-Benzyloxy-6-methoxy-2-methyl-1-[1-(2-methylthiophenyl) cyclobutyl]-1,2,3,4-tetrahydroisoquinoline | 1.7 g | C(C1=CC=CC=C1)OC1=C(C=C2CCN(C(C2=C1)C1(CCC1)C1=C(C=CC=C1)SC)C)OC | C29H33NO2S
reactant | hydrobromic acid | 15 ml | Br | BrH
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 6,7-dihydroxy-2-methyl-1-[1-(2-methylthiophenyl )cyclobutyl]-1,2,3,4-tetrahydroisoquinoline hydrobromide | 1.1 g | Br.OC=1C=C2CCN(C(C2=CC1O)C1(CCC1)C1=C(C=CC=C1)SC)C | InChI=1S/C21H25NO2S.BrH/c1-22-11-8-14-12-17(23)18(24)13-15(14)20(22)21(9-5-10-21)16-6-3-4-7-19(16)25-2;/h3-4,6-7,12-13,20,23-24H,5,8-11H2,1-2H3;1H
